* C:\sandbox\spicelib_dev\examples\testfiles\Batch_Test.asc
V1 +V 0 15
R1 N001 0 10K
R2 OUT N001 10K
V2 -V 0 -15
V3 IN 0 SINE(0 1 {freq})
XU1 IN N001 +V -V OUT AD820
.tran 1m
.meas TRAN Vout_rms RMS V(OUT)
.meas TRAN Vin_rms RMS V(IN)
.meas TRAN gain PARAM Vout_rms/Vin_rms
.param freq=10k
.meas Vout1m FIND V(OUT) AT 1m
.meas TRAN period FIND time WHEN V(out)=0 RISE=1
.param test_param3 = test_param2 + 1
.param test_param1 = 12  test_param2=10
* .step dec param freq 10k 1Meg 10
.subckt AD820 1 2 3 4 5
A1 N009 0 0 0 0 0 N005 0 OTA g=66u Iout=40u Vhigh=1e308 Vlow=-1e308
C12 3 2 .25p Rser=2k noiseless
B3 0 N006 I=1m*dnlim(uplim(V(1),V(3)-.9,.1), V(4)-.2, .1)+100n*V(1)-941.26p
B4 N006 0 I=1m*dnlim(uplim(V(2),V(3)-.91,.1), V(4)-.21, .1)+100n*V(2)
C4 N006 0 1f Rpar=1K noiseless
D1 3 4 IQ
R5 2 1 10T noiseless
C2 N005 N008 10p
C3 N005 0 100f
D2 N005 0 DANTISAT1
G2 0 N008 5 Mid 1
R4 N008 0 1 noiseless
R6 3 Mid 312.5k noiseless
R7 Mid 4 312.5k noiseless
C6 N004 0 {C1_P1} Rpar={1/alpha_P1} noiseless
G5 0 N009 N004 0 {alpha_P1}
M1 5 PG 3 3 PI temp=27
M2 5 NG 4 4 NI temp=27
D3 3 PG DLIMP
D4 NG 4 DLIMN
C8 3 PG 10f Rser=400k noiseless
C9 NG 4 10f Rser=400k noiseless
B2 4 NG I=dnlim(vminn/1e6+1.8u*(V(XX)+voffn),vminn/1e6,100n)
B5 PG 3 I=dnlim(vminp/1e6-1.8u*(V(XX)-voffp),vminp/1e6,100n)
C13 3 5 1p
C15 5 4 1p
D5 N005 0 DANTISAT2
G1 2 3 2 3 10m vto=300m dir=1
G6 1 3 1 3 10m vto=300m dir=1
G7 4 2 4 2 10m vto=21 dir=1
G8 4 1 4 1 10m vto=21 dir=1
C16 2 1 2.8p Rser=1k noiseless
C17 N007 4 1p Rpar=1k noiseless
G9 4 N007 3 4 .5m
I1 4 N007 5m
D10 N007 2 DBIAS2
D11 N007 1 DBIAS2
D6 3 2 DBIAS1
D7 3 1 DBIAS1
G10 0 VBD1 3 0 50µ
C18 VBD1 0 1p Rpar=1k noiseless
G11 VBD1 0 2 0 25µ
G12 VBD1 0 1 0 25µ
I2 VBD1 0 400µ
D12 VBD2 0 DBIAS3 temp=27
R8 VBD2 VBD1 1k noiseless
G13 3 2 VBD1 VBD2 1.6n
G14 3 1 VBD1 VBD2 1.6n
C19 XX 0 {C1_PZ1} Rpar={R2_PZ1} Rser={R1_PZ1} noiseless
G15 0 XX N005 0 {alpha_PZ1*1.3}
A3 0 N006 0 0 0 0 N004 0 OTA g=20u linear en=13n enk=45 vlow=-1e308 vhigh=1e308
C1 N009 0 {C1_P1} Rpar={1/alpha_P1} noiseless
A4 0 2 0 0 0 0 0 0 OTA g=0 in=.8f ink=.5
A2 0 1 0 0 0 0 0 0 OTA g=0 in=.8f ink=.5
C5 2 4 .25p Rser=2k noiseless
C7 3 1 .25p Rser=2k noiseless
C10 1 4 .25p Rser=2k noiseless
G3 2 3 2 3 10µ vto=-800m dir=1
G4 1 3 1 3 10µ vto=-800m dir=1
.model DANTISAT1 D(Ron=10Meg Roff=95.6Meg vfwd=100m epsilon=100m vrev=100m revepsilon=100m noiseless)
.model DANTISAT2 D(Ron=1k Roff=95.6Meg vfwd=4 epsilon=100m vrev=4 revepsilon=100m noiseless)
.param alpha_PZ1=1.0e-3 pole_PZ1=150k zero_PZ1=700k
+ R2_PZ1=1.0/alpha_PZ1 R1_PZ1=1.0/(alpha_PZ1*(zero_PZ1/pole_PZ1 - 1.0))
+C1_PZ1=1.0/(2.0*pi*zero_PZ1*R1_PZ1)
.param alpha_P1=1.0e-5 pole_P1=11.0e6
+ C1_P1 = alpha_P1/(2*pi*pole_P1)
.param vadj = -12m
.param vminp = 418m
.param voffp = {45m+vadj}
.param vminn=400m
.param voffn ={5m-vadj}
.model NI VDMOS(VTO=300m mtriode=1.1 KP=45m ksubthres=10m lambda=.001 noiseless)
.model PI VDMOS(VTO=-300m mtriode=.65 KP=36m ksubthres=10m lambda=.001 pchan noiseless)
.model DLIMN D(Ron=1k Roff=1Meg Vfwd=1.5  epsilon=100m  noiseless)
.model DLIMP D(Ron=1k Roff=1Meg Vfwd=1.4  epsilon=100m noiseless)
.model DBIAS1 D(Ron=1k Roff=10T vfwd=0 epsilon=100m  ilimit=1p noiseless)
.model DBIAS2 D(Ron=5T Roff=30T vfwd=500m epsilon=100m noiseless)
.model DBIAS3 D(IS=1e-18 noiseless)
.model IQ D(Ron=2K Vfwd=2 epsilon=1 Ilimit=53.13u noiseless)
.ends AD820
.lib ADI1.lib
.backanno
.end
